US09212348B2
Synthesis of Triphenyl(t-butoxycarbonylimino)phosphorane
To the solution of t-butyl carbonazidate in diethyl ether, 49.6 g (0.189 mol) of triphenylphosphine was added in small portions under cooling with ice, and the reaction solution was stirred at room temperature for 1 hour, and the precipitated solid was collected by filtration, washed with 200 mL of hexane and dried under reduced pressure to give 67 g of the desired product as white crystals.

reactant | t-butyl carbonazidate | C(OC(C)(C)C)(=O)N=[N+]=[N-] | C5H9N3O2
reactant | triphenylphosphine | 0.189 mol, 49.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethyl ether | C(C)OCC | C4H10O
product | Triphenyl(t-butoxycarbonylimino)phosphorane | 67 g | C1(=CC=CC=C1)P(=NC(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24NO2P
